US07015218B1
1-(4-Chlorophenyl)-N-[3-cyano-4-(4-thiomorpholinopiperidin-1-yl) phenyl]-5-methylpyrazole-4-carboxamide
1-(4-chlorophenyl)-5-methylpyrazole-4-carboxylic chloride (0.67 g) and 5-amino-2-(4-thiomorpholinopiperidin-1-yl)benzonitrile (0.8 g) were added to pyridine (10 ml) and the reaction was conducted for 1 h at room temperature. To the reaction mixture was added aqueous potassium carbonate solution and the precipitated crystals were recrystallized from hydrous dimethylformamide to give the title compound (0.52 g), melting point: 256° C./decomposition.

reactant | 1-(4-chlorophenyl)-5-methylpyrazole-4-carboxylic chloride | 0.67 g | ClC1=CC=C(C=C1)N1N=CC(=C1C)C(=O)Cl | C11H8Cl2N2O
reactant | 5-amino-2-(4-thiomorpholinopiperidin-1-yl)benzonitrile | 0.8 g | NC=1C=CC(=C(C#N)C1)N1CCC(CC1)N1CCSCC1 | C16H22N4S
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 1-(4-Chlorophenyl)-N-[3-cyano-4-(4-thiomorpholinopiperidin-1-yl) phenyl]-5-methylpyrazole-4-carboxamide | 0.52 g | ClC1=CC=C(C=C1)N1N=CC(=C1C)C(=O)NC1=CC(=C(C=C1)N1CCC(CC1)N1CCSCC1)C#N | C27H29ClN6OS
